US08138187B2
8-Pyrrolidin-1-yl-1,4-dioxaspiro[4.5]decane-8-carbonitrile (10.0 g, 42.6 mmol), dissolved in THF (90 ml), was added to a 1.82 M phenylmagnesium chloride solution in THF (70 ml, 0.127 mol) in the course of 15 min, under argon and while cooling with ice, and the mixture was stirred at room temperature for 16 h. For working up of the reaction mixture, saturated ammonium chloride solution (100 ml) was added, while cooling with ice, and the mixture was then extracted with diethyl ether (3×100 ml). The organic phase was extracted by shaking with water (70 ml) and saturated NaCl solution (70 ml) and the extract was concentrated. A yellow crystal slurry (11.8 g) remained which, apart from the desired product, still contained educt. The crude product was dissolved in ethyl methyl ketone (70 ml), and ClSiMe3 (8 ml, 0.063 mol) was added, while cooling with ice. After a reaction time of 6 h, it was possible to isolate 4-(8-phenyl-1,4-dioxaspiro[4.5]dec-8-yl)pyrrolidine hydrochloride in a yield of 43% (5.9 g) as a white solid.

reactant | 8-Pyrrolidin-1-yl-1,4-dioxaspiro[4.5]decane-8-carbonitrile | 42.6 mmol, 10.0 g | N1(CCCC1)C1(CCC2(OCCO2)CC1)C#N | C13H20N2O2
reactant | phenylmagnesium chloride | 1.82 M | C1(=CC=CC=C1)[Mg]Cl
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
reactant | ClSiMe3 | 0.063 mol, 8 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | THF | 90 ml | C1CCOC1 | C4H8O
reactant | THF | 0.127 mol, 70 ml | C1CCOC1 | C4H8O
product | 4-(8-phenyl-1,4-dioxaspiro[4.5]dec-8-yl)pyrrolidine hydrochloride | yield of 43% | Cl.C1(=CC=CC=C1)C1(CCC2(OCCO2)CC1)C1CCNC1 | InChI=1S/C18H25NO2.ClH/c1-2-4-15(5-3-1)17(16-6-11-19-14-16)7-9-18(10-8-17)20-12-13-21-18;/h1-5,16,19H,6-14H2;1H
